Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ female with HIV, last CD4 412/VL 43,800, presenting with 
diarrhea. She presented to clinic today and was found to be 
orthostatic. She had fevers to 101 at home and diarrhea with 
around 30 BMs per day, which were non-bloody.  
.  
Initial vitals in the ED were 98.6 97 159/68 18 100%. She was 
given 3 L IVF in the ED. Vitals on admission were 98.6 85 101/58 
16 98RA.  
.  
She has diarrhea even in the absence of oral intake and she has 
nocturnal symptoms. She has crampy abdominal pain associated 
with the diarrhea. Currently also has mild headache but no neck 
pain. She has been exposed to a child with a viral 
gastroenteritis and she helps her daughter who works in a 
daycare. She denies exposure to unpasteurized dairy products or 
undercooked meats.  
.  
ROS: sore throat, cough, shortness of breath, chest pain, BRBPR, 
melena, hematochezia, dysuria, hematuria.  

 
Past Medical History:
HIV – not yet on HAART  
depression  

 
Social History:
___
Family History:
nc
 
Physical Exam:
VS: 96.9 98/58 77 18 97  
GENERAL: NAD.  
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear., 
no thrush  
NECK: Supple, no thyromegaly, no JVD, no carotid bruits.  
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored. 
 
HEART: RRR, no MRG, nl S1-S2.  
ABDOMEN: soft, TTP RUQ and RLQ and epigastric region. No 
___ sign, no rebound. Hyperactive bowel sounds.  
EXTREMITIES: WWP, no c/c/e, 2+ peripheral pulses.  
SKIN: No rashes or lesions.  
LYMPH: No cervical LAD.  
NEURO: Awake, A&Ox3  

 
Pertinent Results:
I. Labs

A. Admission

___ 06:30PM BLOOD WBC-5.8# RBC-5.25 Hgb-13.8 Hct-40.6 
MCV-77* MCH-26.3* MCHC-34.0 RDW-13.3 Plt ___
___ 06:30PM BLOOD Neuts-58.2 ___ Monos-5.3 Eos-0.4 
Baso-0.5
___ 06:30PM BLOOD ___ PTT-31.0 ___
___ 06:30PM BLOOD Glucose-81 UreaN-13 Creat-0.8 Na-132* 
K-3.6 Cl-100 HCO3-23 AnGap-13
___ 06:30PM BLOOD ALT-18 AST-23 AlkPhos-58 TotBili-0.2
___ 06:30PM BLOOD Albumin-3.9 Calcium-8.8 Phos-4.0 Mg-2.0
___ 06:33PM BLOOD Lactate-1.1

B. Discharge

___ 07:00AM BLOOD WBC-3.1* RBC-4.15* Hgb-11.1* Hct-31.8* 
MCV-77* MCH-26.8* MCHC-35.0 RDW-13.4 Plt ___
___ 07:00AM BLOOD Glucose-82 UreaN-3* Creat-0.4 Na-138 
K-3.9 Cl-111* HCO3-21* AnGap-10
___ 07:00AM BLOOD Calcium-8.0* Phos-3.2 Mg-2.2 

II. Microbiology
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ Immunology (CMV) CMV Viral Load-PENDING 
INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ 4:05 am STOOL     CONSISTENCY: WATERY      
Source: Stool. 
   CYCLOSPORA STAIN (Final ___:    NO CYCLOSPORA SEEN. 

   MICROSPORIDIA STAIN (Final ___:    NO MICROSPORIDIUM 
SEEN. 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Pending): 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      NO E.COLI 0157:H7 FOUND. 

   Cryptosporidium/Giardia (DFA) (Final ___: 
      NO CRYPTOSPORIDIUM OR GIARDIA SEEN. 

   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
      Feces negative for C.difficile toxin A & B by EIA. 
           (Reference Range-Negative). 

III. Radiology (___)
HISTORY: ___ woman with HIV, right upper quadrant 
tenderness with 
nausea, vomiting and diarrhea. 
  
TECHNIQUE: Liver/gallbladder ultrasound. 
  
COMPARISON: No prior. 
  
FINDINGS: The liver is of normal echogenicity. There is a 
punctate focus of hyperechogenicity in the right liver lobe, 
non-specific with no flow, possibly a calcified granuloma. The 
gallbladder measures 3 mm. There is no evidence of acute 
cholecystitis. There is no evidence of cholelithiasis. 
Evaluation of pancreas is suboptimal due to overlapping bowel 
gas. The main portal vein is patent with normal waveform. There 
is no free fluid in the Morison pouch.  Spleen measures 11 cm 
and appears normal. 
  
IMPRESSION: No evidence of acute cholecystitis. 
  

# Pending studies
___ 07:00AM BLOOD Ferritn-PND TRF-PND Iron-PND
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ Immunology (CMV) CMV Viral Load-PENDING 
___ CAMPYLOBACTER CULTURE (Pending): 

 
Brief Hospital Course:
___ female with HIV (CD4 412) presenting with fever and 
watery diarrhea x 3 days consistent with viral gastroenteritis 
given recent sick contact admitted for orthostasis and poor PO 
intake. She underwent IV hydration with subsequent transition to 
PO intake.    
 
# Viral gastroenteritis
Patient reported a 3-day history of non-bloody watery diarrhea 
with cramping, emesis at onset, fever around ___ in setting of 
sick contact involving child with gastroenteritis. She was found 
to be orthostatic in clinic with concern of poor PO intake. She 
was briefly treated with ciprofloxacin and flagyl for 1 dose on 
admission for possible colitis, which was subsequently 
discontinued. Exam significant for tenderness at RUQ with 
negative RUQ US for hepatobiliary pathology.  CD4 count would 
speak against opportunistic infections. Stool studies negative 
for parasitic and bacterial etiologies with some tests pending. 
No further fevers or features suggestive of systemic infection. 
IV hydration provided, and bowel movements decreased to 10 times 
daily to 2 times daily with some solid stool forming. Patient 
was able to take adequate lactose-free, low residue diet and 
fluids. She was informed to take copious fluids at home, 
continue on BRAT diet until comfortable taking regular 
nutrition. In addition, her family and she are to wash hands 
frequently and clean bathroom areas with bleach given patient 
will be contagious for 3-days after diarrheal symptoms.   

# Headache
Patient complaining of headache on admission with no alarm 
features responsive to APAP. No further headaches. 
 
# HIV  
Patient followed by ___ with recent discussion about initiation 
of HAART. She will see Dr. ___ in clinic in late ___.
  
# Depression  
She was continued on lexapro. 
 
# CODE: Full  

# CONTACT: HCP ___ ___ 

 
Medications on Admission:
Lexapro  
Albuterol 
 
Discharge Medications:
1. escitalopram 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
One (1) Puff Inhalation Q6H (every 6 hours) as needed for 
shortness of breath or wheezing.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: viral gastroenteritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for diarrhea secondary to viral 
gastroenteritis. You were given hydration and able to take bland 
foods by mouth. 
Please call your primary care doctor if you begin to have 
diarrhea, inability to take food and water, or other symptoms 
that are concerning.

For diet, please eat a BRAT diet - banana, rice, apple, toast 
until you feel comfortable eating your regular foods. Drink at 
least 2liters of fluids per day. Avoid foods containing dairy 
products until your diarrhea stops. 

You will be contagious for 3 days after your last symptoms of 
diarrhea. Please clean all bathrooms areas with bleach. You and 
your family members should wash your hands with soap and water 
frequently.

Medication changes: none 
 
Followup Instructions:
___